US04939133
The 4-[2-(3,4-dimethoxyphenyl)ethyl]benzenamine (9.9 g, 38.9 mmole) is dissolved in toluene (125 ml) containing formic acid (5.0 g, 108 mole) and refluxed for one hour. The reaction mixture is cooled to room temperature and evaporated to dryness. Recrystallization of the residue from toluene affords 11.0 g (82%) of N-formyl-4-[2-(3,4-dimethoxyphenyl)ethyl]benzenamine, mp 128°-130° C.

reactant | 4-[2-(3,4-dimethoxyphenyl)ethyl]benzenamine | 38.9 mmole, 9.9 g | COC=1C=C(C=CC1OC)CCC1=CC=C(C=C1)N | C16H19NO2
reactant | formic acid | 108 mole, 5.0 g | C(=O)O | CH2O2
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | N-formyl-4-[2-(3,4-dimethoxyphenyl)ethyl]benzenamine | 11.0 g, 82% | C(=O)NC1=CC=C(C=C1)CCC1=CC(=C(C=C1)OC)OC | C17H19NO3
